// imports
simulator lang=spectre
global 0

// !CONFIG-INCLUDE

parameters ids=10u vbs=0 vdd=1.5 w=1u l=1u

// DUT characterise
M0 (vd vg 0 vb) !MOS w=w l=l

Id (0 vd_) isource dc=ids type=dc
Vdd (vd_ 0) vsource dc=vdd type=dc
Vbs (vb 0) vsource dc=vbs type=dc
Hgs (vg 0) ccvs rm=1G min=0.0 max=1.5 probe=Vdd
Vmeas (vd_ vd) vsource dc=0 type=dc
Hnoise (noise 0) ccvs rm=1 probe=Vmeas

// analyses
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
noise ( noise 0 ) noise start=1 stop=20G annotate=status 

// simulator settings
save M0:all
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 noiseon_type=all scalem=1.0 scale=1.0 \
    gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub